US08685970B2
To a mixture of methyl 3-methyl-2-nitrobenzoate (45.0 g, 0.23 mol) and NBS (45.0 g, 0.25 mol) in CCl4 (1500 mL) was added AIBN (1.2 g, 7.3 mmol) portion-wise under reflux. The mixture was refluxed (48 hours), and the solvent was removed in vacuo. The residue was purified by silica gel column chromatography (6% to 10% Ethyl acetate gradient in petroleum ether) to obtain methyl 2-amino-3-(aminomethyl)benzoate (9.0 g, 14% yield).

reactant | methyl 3-methyl-2-nitrobenzoate | 0.23 mol, 45.0 g | CC=1C(=C(C(=O)OC)C=CC1)[N+](=O)[O-] | C9H9NO4
reactant | NBS | 0.25 mol, 45.0 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 7.3 mmol, 1.2 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 1500 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 2-amino-3-(aminomethyl)benzoate | 9.0 g, 14% yield | NC1=C(C(=O)OC)C=CC=C1CN | C9H12N2O2
